US06897231B2
C. 5-[3-(2-Phenylethyl)-1H-indazol-5-yl]-2H-1,2,3,4-tetrazole
The title compound was prepared as described in Example 167, using 1-perhydro-2H-pyran-2-yl-3-(2-phenylethyl)-1H-indazole-5-carbonitrile (0.117 g, 0.35 mmol), azidotributyl tin (0.353 g, 0.292 mL, 1.06 mmol) in toluene (5 mL). After hydrolysis of the protecting group under acidic conditions, the compound was purified by acid/base extraction. The residue was partitioned between 6.0N NaOH and ethyl acetate. The aqueous phase was then acidified with 6.0 N aqueous hydrogen chloride, to pH 3-4, resulting in the formation of a white precipitate that was collected by filtration, washed with small portions of cold water and dried under vacuum (0.038 g, 37% yield over 2 steps): 1H NMR (DMSO-d6) δ 13.05 (br s, 1H), 8.5 (s, 1H), 8.0 (d, 1H), 7.65 (d, 1H), 7.3 (m, 4H), 7.15 (m, 1H), 3.3 (m, 2H), 3.1 (m, 2H); ES-MS (m/z) 291 [M+1]+.

reactant | 1-perhydro-2H-pyran-2-yl-3-(2-phenylethyl)-1H-indazole-5-carbonitrile | 0.35 mmol, 0.117 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C#N)CCC1=CC=CC=C1 | C21H21N3O
reactant | azidotributyl tin | 1.06 mmol, 0.292 mL, 0.353 g | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[3-(2-Phenylethyl)-1H-indazol-5-yl]-2H-1,2,3,4-tetrazole | 37% yield | C1(=CC=CC=C1)CCC1=NNC2=CC=C(C=C12)C=1N=NNN1 | C16H14N6
